US08138188B2
6-Formylnicotinonitrile
A mixture of 6-methylnicotinonitrile (10.0 g, 84.6 mmol) and iodine (20.0 g, 78.8 mmol) in dimethylsulfoxide (150 mL) was heated at 150° C. under nitrogen for 20 minutes (reaction exhaust was scrubbed with bleach to remove dimethyl sulfide). After cooling to room temperature saturated aqueous sodium bicarbonate (200 mL) was added carefully and the resulting mixture was extracted with toluene (3×100 mL). The combined organic extracts were washed with brine, dried (MgSO4) and evaporated to give the desired product as an orange oil (5.65 g, 50%) which was used without further purification. 1H NMR (CDCl3, 400 MHz) δ 8.06 (1H, d), 8.17 (1H, dd), 9.05 (1H, d), 10.12 (1H, s).

reactant | 6-methylnicotinonitrile | 84.6 mmol, 10.0 g | CC1=NC=C(C#N)C=C1 | C7H6N2
reactant | iodine | 78.8 mmol, 20.0 g | II | I2
reactant | dimethyl sulfide | CSC | C2H6S
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
solvent | dimethylsulfoxide | 150 mL | CS(=O)C | C2H6OS
product | 6-Formylnicotinonitrile | 5.65 g, 50% | C(=O)C1=NC=C(C#N)C=C1 | C7H4N2O
